US07592373B2
3.18.a 4-(4-nitrobenzyl)piperidin-4-ol
137 mL (0.983 mol) of triethylamine is added to a solution of 41.5 g (0.410 mol) of 4-hydroxypiperidine in 500 mL of dichloromethane. Then 56.28 g (0.328 mol) of 4-nitrobenzylchloride is slowly added. The reaction mixture is boiled for 12 hours. The solid formed is suction filtered, the filtrate is washed twice with water and dried over magnesium sulfate. The solvent is evaporated down. Yield: 66.45 g (86% of theory); C12H16N2O3 (M=236.27); calc.: molecular ion peak (M+H)+: 237; found: molecular ion peak (M+H)+: 237.

reactant | triethylamine | 0.983 mol, 137 mL | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxypiperidine | 0.410 mol, 41.5 g | OC1CCNCC1 | C5H11NO
reactant | 4-nitrobenzylchloride | 0.328 mol, 56.28 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 4-(4-nitrobenzyl)piperidin-4-ol | [N+](=O)([O-])C1=CC=C(CC2(CCNCC2)O)C=C1 | C12H16N2O3
